US05000775
2-[(1,1-dimethylethyl)amino]-N-(2-hydroxy-1,1-dimethylethyl)-4-(trifluoromethyl)-5-oxazolecarboxamide
A reaction vessel fitted with a calcium sulfate drying tube was charged with 4.9 g (55 mmol) of 2-amino-2-methyl-1-propanol and 50 ml of anhydrous ethyl ether. With this mixture stirred at 0°-5° C., there was added dropwise over a period of 45 minutes a solution of 50 ml anhydrous ethyl ether containing 6.5 g (25 mmol) of 2-(tert-butylamino)-4-trifluoromethyl-5-oxazolecarbonyl chloride. The reaction mixture was stirred at ambient temperature for 11/2 hours, then filtered to remove the HCl salt of 2-amino-2-methyl1-propanol. The ether filtrate was washed successively with one molar oxalic acid and saturated brine, then dried under magnesium sulfate, and concentrated under reduced pressure to yield 8.2 g of a colorless, viscous oil. This oil was mixed with hexane and heated to reflux to yield a white solid material. The material was cooled and filtered to yield 7.7 g of a white crystalline product (m.p.=140°-144° C.) identified in Table I.

reactant | 2-amino-2-methyl-1-propanol | 55 mmol, 4.9 g | NC(CO)(C)C | C4H11NO
reactant | ethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 25 mmol, 50 ml, 6.5 g | C(C)OCC | C4H10O
reactant | 2-(tert-butylamino)-4-trifluoromethyl-5-oxazolecarbonyl chloride | C(C)(C)(C)NC=1OC(=C(N1)C(F)(F)F)C(=O)Cl | C9H10ClF3N2O2
solvent | hexane | CCCCCC | C6H14
product | 2-[(1,1-dimethylethyl)amino]-N-(2-hydroxy-1,1-dimethylethyl)-4-(trifluoromethyl)-5-oxazolecarboxamide | 7.7 g | CC(C)(C)NC=1OC(=C(N1)C(F)(F)F)C(=O)NC(CO)(C)C | C13H20F3N3O3
